US07750154B2
N-Cyclopropyl-4-methyl-3-[6-(1-methylpiperidin-4-yl)-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12287327)
N-Cyclopropyl-4-methyl-3-[6-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-4-oxoquinazolin-3(4H)-yl]benzamide (0.284 g) and 10% Palladium on carbon (0.028 g) were stirred in ethanol (6 ml) and acetic acid (0.5 ml) under an atmosphere of hydrogen for 24 hours. The catalyst was removed by filtration through diatomaceous earth (Celite®) and the filtrate was concentrated under reduced pressure. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate+1% aqueous ammonia solution to give the title compound (0.140 g) as a white foam solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 1.78 (m, 4H), 2.00 (m, 2H), 2.13 (s, 3H), 2.20 (s, 3H), 2.67 (m, 1H), 2.88 (m, 3H), 7.52 (d, 1H), 7.71 (d, 1H), 7.82 (m, 2H), 7.90 (d, 1H), 8.02 (s, 1H), 8.24 (s, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 417.

reactant | N-Cyclopropyl-4-methyl-3-[6-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | 0.284 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)C=1CCN(CC1)C)=O | C25H26N4O2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | 0.028 g | [Pd] | Pd
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-Cyclopropyl-4-methyl-3-[6-(1-methylpiperidin-4-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | 0.140 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)C1CCN(CC1)C)=O | C25H28N4O2
